US09169254B2
Sodium hydride (60% oil suspension, 5.6 mg, 0.14 mmol) was added to a solution of N-(3,5-dimethyl-4-{(E)-2-[4-oxo-2-(3-trifluoromethoxy-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-N-methyl-chloroformamide (30 mg, 50.1 μmol) in tetrahydrofuran (1.0 ml) at 0° C., and the mixture was stirred for 15 minutes. 2-(tert-Butyl-dimethyl-silanyloxy)-ethanol (30 μL, 0.14 mmol) was then added and the mixture was stirred at 40° C. for two hours. The mixture was cooled, and then quenched with water and extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-ethyl acetate) to give (3,5-dimethyl-4-{(E)-2-[4-oxo-2-(3-trifluoromethoxy-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-methyl-carbamic acid 2-(tert-butyl-dimethyl-silanyloxy)-ethyl ester (29 mg, 78%).

reactant | Sodium hydride | 0.14 mmol, 5.6 mg | [H-].[Na+]
reactant | N-(3,5-dimethyl-4-{(E)-2-[4-oxo-2-(3-trifluoromethoxy-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-N-methyl-chloroformamide | 50.1 μmol, 30 mg | CC=1C=C(C=C(C1\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)OC(F)(F)F)=O)CC1)C)N(C(=O)Cl)C | C26H26ClF3N4O5S
reactant | 2-(tert-Butyl-dimethyl-silanyloxy)-ethanol | 0.14 mmol, 30 μL | C(C)(C)(C)[Si](OCCO)(C)C | C8H20O2Si
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | (3,5-dimethyl-4-{(E)-2-[4-oxo-2-(3-trifluoromethoxy-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-methyl-carbamic acid 2-(tert-butyl-dimethyl-silanyloxy)-ethyl ester | 29 mg, 78% | C(C)(C)(C)[Si](OCCOC(N(C)C1=CC(=C(C(=C1)C)\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)OC(F)(F)F)=O)CC1)C)=O)(C)C | C34H45F3N4O7SSi
